US05304555
79 g (320 mmoles) of 4-chloromethyl-5-ethoxycarbonyl-2-methylthiopyrimidine was dissolved in 300 ml of methanol, and 50 g (640 mmoles) of a 40% methanol solution of methylamine was added dropwise over 15 minutes, and the mixture was stirred for 15 hours. The product was separated by filtration and dried to give 11 g (yield 18%) of 2-methylthio-6-methyl-5-oxo-5,6-dihydro(7H) pyrrolo[3,4-d]pyrimidine. The resulting product (1.5 g; 7.7 mmoles) and 3.4 g (38.5 mmoles) of morpholine were dissolved in 20 ml of n-amyl alcohol, and the solution was heated under reflux for 7 hours. The reaction mixture was cooled, and the precipitated crystals were separated by filtration to give 0.75 g (yield 42%) of the desired compounds.

reactant | 4-chloromethyl-5-ethoxycarbonyl-2-methylthiopyrimidine | 320 mmoles, 79 g | ClCC1=NC(=NC=C1C(=O)OCC)SC | C9H11ClN2O2S
reactant | methylamine | CN | CH5N
solvent | methanol | 300 ml | CO | CH4O
product | 2-methylthio-6-methyl-5-oxo-5,6-dihydro(7H) pyrrolo[3,4-d]pyrimidine | 11 g, yield 18% | CSC=1N=CC2=C(N1)CN(C2=O)C | C8H9N3OS
